US07572794B2
To a stirred solution of 3-hydroxypyrrolidine (1.0 g, 11.48 mmol) in isopropanol (27 mL) at rt was added trimethylsilylisocyanate (2.14 mL, 16.07 mmol) and the resulting solution stirred overnight. The resulting suspension was filtered and the residue washed with isopropanol and dried to give 3-hydroxy-pyrrolidine-1-carboxylic acid amide (0.89 g, 60%); 1H-NMR (300 MHz, d6-DMSO) 5.64 (2H, s), 4.85 (1H, d), 4.21-4.22 (1H, m), 3.22-3.28 (3H, m), 3.06-3.10 (1H, m), 1.79-1.90 (1H, m), 1.67-1.76 (1H, m).

reactant | 3-hydroxypyrrolidine | 11.48 mmol, 1.0 g | OC1CNCC1 | C4H9NO
reactant | trimethylsilylisocyanate | 16.07 mmol, 2.14 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | isopropanol | 27 mL | C(C)(C)O | C3H8O
product | 3-hydroxy-pyrrolidine-1-carboxylic acid amide | 0.89 g, 60% | OC1CN(CC1)C(=O)N | C5H10N2O2
